US09215875B2
2-(1-{[5-Methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carbaldehyde methyl[5-(trifluoromethyl)pyridin-2-yl]hydrazone (I-14)
At room temperature, 2-(1-methylhydrazinyl)-5-(trifluoromethyl)pyridine (58 mg) is added to a solution of 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carbaldehyde (100 mg) in ethanol. The reaction mixture is stirred for 24 hours, and the solvent is then removed under reduced pressure. The residue is purified by column chromatography (silica gel, ethyl acetate:hexane 0%-100% elution gradient). This gives 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}) piperidin-4-yl)-1,3-thiazole-4-carbaldehyde methyl[5-(trifluoromethyl)pyridin-2-yl]hydrazone (79 mg, 56%), (log P (pH2.7)=4.23).

reactant | 2-(1-methylhydrazinyl)-5-(trifluoromethyl)pyridine | 58 mg | CN(N)C1=NC=C(C=C1)C(F)(F)F | C7H8F3N3
reactant | 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carbaldehyde | 100 mg | CC1=CC(=NN1CC(=O)N1CCC(CC1)C=1SC=C(N1)C=O)C(F)(F)F | C16H17F3N4O2S
solvent | ethanol | C(C)O | C2H6O
product | 2-(1-{[5-Methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carbaldehyde methyl[5-(trifluoromethyl)pyridin-2-yl]hydrazone | CN(N=CC=1N=C(SC1)C1CCN(CC1)C(CN1N=C(C=C1C)C(F)(F)F)=O)C1=NC=C(C=C1)C(F)(F)F | C23H23F6N7OS
